US09428452B2
N-(5-chloro-2-fluorophenyl)-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide
To a stirred solution of N-(5-chloro-2-fluorophenyl)-N-isobutyl-4-vinylbenzenesulfonamide (824 mg, 2.240 mmol) in dichloromethane (DCM) at 0° C. was added meta-chloroperoxybenzoic acid (mCPBA) (1546 mg, 8.96 mmol) and the reaction mixture stirred for 6 hours from 0° C. to 25° C. The reaction was then washed with water (5 mL), sodium hydroxide solution (2M, 5 mL) and brine (5 mL), then evaporated in vacuo to give the required product (503 mg). LCMS [LCMS2] Rt 1.34 min, m/z (ES+) 384 (M+H).

reactant | N-(5-chloro-2-fluorophenyl)-N-isobutyl-4-vinylbenzenesulfonamide | 2.240 mmol, 824 mg | ClC=1C=CC(=C(C1)N(S(=O)(=O)C1=CC=C(C=C1)C=C)CC(C)C)F | C18H19ClFNO2S
reactant | meta-chloroperoxybenzoic acid | 8.96 mmol, 1546 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(5-chloro-2-fluorophenyl)-N-isobutyl-4-(oxiran-2-yl)benzenesulfonamide | 503 mg | ClC=1C=CC(=C(C1)N(S(=O)(=O)C1=CC=C(C=C1)C1OC1)CC(C)C)F | C18H19ClFNO3S
